US09359340B2
(5R,7S)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride (0.0444 g, 0.1445 mmol) and (S)-3-(tert-butoxycarbonyl(cyclopropylmethyl)amino)-2-(4-chlorophenyl)propanoic acid (0.05114 g, 0.1445 mmol) were combined in methylene chloride (1.25 mL). They were then treated with diisopropylethylamine (0.07552 ml, 0.4336 mmol), followed by HBTU (0.05495 g, 0.1445 mmol). The reaction was stirred at ambient temperature for 16 hours. The reaction was quenched with 10% Na2CO3, diluted with methylene chloride and separated. The aqueous portion was washed with methylene chloride (2×), and the combined organic layers were dried over Na2SO4 and concentrated in vacuo. The material was chromatographed on SiO2 (Biotage 12M) and eluted with 4% MeOH/MC. The material was concentrated in vacuo to give tert-butyl (S)-2-(4-chlorophenyl)-3-(4-((5R,7S)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(cyclopropylmethyl)carbamate as a white solid (67.4 mg, 82%). LCMS (APCI+) [M+H]+570.0.

reactant | (5R,7S)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride | 0.1445 mmol, 0.0444 g | Cl.Cl.C[C@@H]1C[C@@H](C=2N=CN=C(C21)N2CCNCC2)O
reactant | (S)-3-(tert-butoxycarbonyl(cyclopropylmethyl)amino)-2-(4-chlorophenyl)propanoic acid | 0.1445 mmol, 0.05114 g | C(C)(C)(C)OC(=O)N(C[C@@H](C(=O)O)C1=CC=C(C=C1)Cl)CC1CC1 | C18H24ClNO4
reactant | diisopropylethylamine | 0.4336 mmol, 0.07552 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 0.1445 mmol, 0.05495 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | methylene chloride | 1.25 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (S)-2-(4-chlorophenyl)-3-(4-((5R,7S)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(cyclopropylmethyl)carbamate | 67.4 mg, 82% | ClC1=CC=C(C=C1)[C@@H](CN(C(OC(C)(C)C)=O)CC1CC1)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)[C@H](C[C@H]2C)O | C30H40ClN5O4
